US05684034
Using the procedure in Example 6, Part C, 200 mg (0.62 mmol) of 5-methoxy-2-methyl-1-[(2-pyridyl)methyl]-1H-indole-3-acetic acid hydrazide and approximately 1 gram of Raney nickel in 10 mL of EtOH were reacted to give after chromatographing twice on silica eluting with EtOAc followed by 5% MeOH/EtOAc, 54 mg (28% yield) of 5-methoxy-2-methyl-1-[(2-pyridyl)methyl]-1H-indole-3-acetamide, as a semi-solid material.

reactant | 5-methoxy-2-methyl-1-[(2-pyridyl)methyl]-1H-indole-3-acetic acid hydrazide | 0.62 mmol, 200 mg | COC=1C=C2C(=C(N(C2=CC1)CC1=NC=CC=C1)C)CC(=O)NN | C18H20N4O2
reactant | EtOAc | CCOC(=O)C | C4H8O2
reactant | MeOH EtOAc | CO.CCOC(=O)C
catalyst | Raney nickel | approximately 1 gram | [Ni] | Ni
solvent | EtOH | 10 mL | CCO | C2H6O
product | 5-methoxy-2-methyl-1-[(2-pyridyl)methyl]-1H-indole-3-acetamide | 54 mg, 28% yield | COC=1C=C2C(=C(N(C2=CC1)CC1=NC=CC=C1)C)CC(=O)N | C18H19N3O2
